US06054588
670 mg (2.62 mmol) of 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone in 12 ml of tetrahydrofuran and 4 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone were added to a suspension of 171 mg (3.92 mmol) of sodium hydride (55% in mineral oil) in 15 ml of tetrahydrofuran and 5 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) and stirred at room temperature for 3 hours. Thereafter, 396 mg (5.24 mmol) of benzyl bromide were added and the mixture was stirred at room temperature for a further 16 hours. The tetrahydrofuran was removed under a vacuum, the residue was added to 50 ml of water and extracted three times with 50 ml of diethyl ether each time. The combined organic phases were dried over magnesium sulphate and the diethyl ether was removed in a vacuum. The crude product was purified by column chromatography on silica gel (diethyl ether/pentane 1:4). In addition to mixed fractions with the C-alkylation product there were obtained 65 mg (7%) of pure 1-[2-(2,4-dichloro-phenyl)-2-benzyloxy-vinyl]-1H-[1,2,4]triazole as a colourless oil. [M+H]+ =345, 347.

reactant | 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone | 2.62 mmol, 670 mg | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
reactant | sodium hydride | 3.92 mmol, 171 mg | [H-].[Na+]
reactant | benzyl bromide | 5.24 mmol, 396 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 4 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 5 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 1-[2-(2,4-dichloro-phenyl)-2-benzyloxy-vinyl]-1H-[1,2,4]triazole | 65 mg, 7% | ClC1=C(C=CC(=C1)Cl)C(=CN1N=CN=C1)OCC1=CC=CC=C1 | C17H13Cl2N3O
